US06218538B1
3-Phenylpropyl 4-(2-(4-methyl-1-piperazinyl)ethoxy)acetoacetate
2-(4-Methyl-1-piperazinyl)ethanol (8.14 g, 56.5 mmol) in THF (50 mL) was added dropwise to a suspension of sodium hydride (3.5 g, 87.5 mmol) in THF (200 mL) at 0° C. The mixture was then stirred for 3 h at room temperature, cooled to 0° C., 3-phenylpropyl 4-chloroacetoacetate (11.10 mL, 51.5 mmol) in THF (50 mL) was added dropwise, and the reaction mixture was then stirred for 18 h whilst warming to room temperature. 1N Hydrochloric acid was added until the mixture was acidic and the aqueous layer was then separated. The organic layer was extracted twice more with 1N hydrochloric acid. The combined acid layers were washed two times with ethyl acetate and then made basic to pH 8 with sodium hydrogen carbonate and extracted with chloroform three times. The combined extracts were washed with brine, dried and evaporated to give the title compound (8.8 g) as an oil. Electrospray MS m/z 363 [M+H]+.

reactant | 2-(4-Methyl-1-piperazinyl)ethanol | 56.5 mmol, 8.14 g | CN1CCN(CC1)CCO | C7H16N2O
reactant | sodium hydride | 87.5 mmol, 3.5 g | [H-].[Na+]
reactant | 3-phenylpropyl 4-chloroacetoacetate | 51.5 mmol, 11.10 mL | ClCC(CC(=O)OCCCC1=CC=CC=C1)=O | C13H15ClO3
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-Phenylpropyl 4-(2-(4-methyl-1-piperazinyl)ethoxy)acetoacetate | 8.8 g | CN1CCN(CC1)CCOCC(CC(=O)OCCCC1=CC=CC=C1)=O | C20H30N2O4
